US06432949B1
N-[2-chloro-5-(2-piperidinopyrid-4-ylcarbonylamino)phenyl]-2-piperidinopyridine-4-carboxamide
Using an analogous procedure to that described in Example 21, N-[2-chloro-5-(2-chloropyrid-4-ylcarbonylamino)phenyl]-2-chloropyridine-4-carboxamide was reacted with piperidine to give the title compound in 96% yield; NMR Spectrum: (DMSOd6) 1.6 (m, 12H), 3.58 (m, 8H), 7.01 (m, 2H), 7.24 (d, 2H), 7.54 (d, 1H), 7.73 (d, 1H), (m, 2H), 10.09 (br s, 1H), 10.44 (br s, 1H); Mass Spectrum: M+H+ 519.

reactant | N-[2-chloro-5-(2-chloropyrid-4-ylcarbonylamino)phenyl]-2-chloropyridine-4-carboxamide | ClC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)Cl)NC(=O)C1=CC(=NC=C1)Cl | C18H11Cl3N4O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | N-[2-chloro-5-(2-piperidinopyrid-4-ylcarbonylamino)phenyl]-2-piperidinopyridine-4-carboxamide | 96% yield | ClC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCCCC1)NC(=O)C1=CC(=NC=C1)N1CCCCC1 | C28H31ClN6O2
